US05486517
Preparation of 2-(4-Bromophenyl)-1H-benzimidazole
Sodium bisulfite (14.4 g) is added to 4-bromobenzaldehye (17.1 g) in ethanol (100 mL) and the mixture stirred at reflux for 15 minutes. 1,2-Diaminobenzene (10 g) is added and the mixture stirred at reflux for 16 hours. The solvent is evaporated and the residue is washed with water and ethanol to afford 18.0 g of the title compound as a beige solid.

reactant | Sodium bisulfite | 14.4 g | S([O-])(O)=O.[Na+]
reactant | 4-bromobenzaldehye | 17.1 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | 1,2-Diaminobenzene | 10 g | NC1=C(C=CC=C1)N | C6H8N2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-(4-Bromophenyl)-1H-benzimidazole | 18.0 g | BrC1=CC=C(C=C1)C1=NC2=C(N1)C=CC=C2 | C13H9BrN2
